US06605629B1
A mixture of [4-[3-[4-(4-chlorophenyl)-2-(2-methyl-1-imidazolyl)-5-oxazolyl]propyloxy]-3-methylphenyl]acetate (4.30 g), 37% hydrochloride (3ml), and methanol (150 ml) was stirred at room temperature for 1 hour. The reaction mixture was concentrated, which was poured into a 10% aqueous solution of sodium hydrogen carbonate. The precipitated crystals were filtered, washed with pure water and air-dried to give crystals of 4-[3-[4-(4-chlorophenyl)-2-(2-methyl-1-imidazolyl)-5-oxazolyl]propyloxy]-3-methylphenol (3.90 g, 99%). Recrystallization from tetrahydrofuran-hexane gave colorless prisms (2.56 g, 65%). Melting point 175-176° C.

reactant | [4-[3-[4-(4-chlorophenyl)-2-(2-methyl-1-imidazolyl)-5-oxazolyl]propyloxy]-3-methylphenyl]acetate | 4.30 g | ClC1=CC=C(C=C1)C=1N=C(OC1CCCOC1=C(C=C(C=C1)CC(=O)[O-])C)N1C(=NC=C1)C
reactant | hydrochloride | 3ml | Cl | ClH
reactant | methanol | 150 ml | CO | CH4O
product | 4-[3-[4-(4-chlorophenyl)-2-(2-methyl-1-imidazolyl)-5-oxazolyl]propyloxy]-3-methylphenol | 3.90 g, 99% | ClC1=CC=C(C=C1)C=1N=C(OC1CCCOC1=C(C=C(C=C1)O)C)N1C(=NC=C1)C | C23H22ClN3O3
